US07781479B2
Methyl 2-[(4-iodobenzyl)oxy]-2-methylpropionate
To a suspension of sodium hydride (55% in liquid paraffin) (315 mg, 7.3 mmol) in THF (2 ml) was dropped a solution of methyl 2-hydroxyisobutyrate (0.84 g, 7.1 mmol) in THF (2 ml). The reaction mixture was stirred for 30 minutes at 60° C. Thereto was dropped a solution of 4-iodobenzyl bromide (2.0 g, 6.7 mmol) in THF (4 ml) at 60° C. The mixture was stirred for 5 hours at 60° C. Therein were added ethyl acetate and a saturated ammonium chloride solution. After stirring for 5 minutes the mixture was separated by a separating funnel. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography to give the subject compound (1.93 g, 86%).

reactant | sodium hydride | 7.3 mmol, 315 mg | [H-].[Na+]
reactant | methyl 2-hydroxyisobutyrate | 7.1 mmol, 0.84 g | OC(C(=O)OC)(C)C | C5H10O3
reactant | 4-iodobenzyl bromide | 6.7 mmol, 2.0 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[(4-iodobenzyl)oxy]-2-methylpropionate | 1.93 g, 86% | IC1=CC=C(COC(C(=O)OC)(C)C)C=C1 | C12H15IO3
